US05756826
Preparation of (2-acetoacetamido-2-methylpropyl)methacrylate
2-amino-2-methyl-1-propanol (367.59 g, 4.0 mol) was heated to 35° C. and diketene (332.92 g, 3.92 mol) was then added. The addition rate was selected such that the temperature could be held at 35° to 40° C. After 2.5 hours, all of the diketene had been added. The mixture was subsequently cooled to 30° C. The initial melt changed with time into a slightly yellowish, viscose liquid. Thiodiphenylamine (0.69 g, 3.4 mmol) was then added and the dropwise addition of methacrylic anhydride (642.92 g, 3.92 mol) over a period of 5 minutes was commenced as quickly as possible. The reaction was slightly exothermic (up to 34° C.). The mixture was then stirred for 71 hours at 31.5° C. After this time, the conversion of the methacrylic anhydride starting material was 91 percent according to GC. Further thiodiphenylamine (0.69 g, 3.4 mmol) was then added to the orange-brown solution. The solution was then placed in a sample bottle. After further reaction for a total of 163 hours (3 days stirring, 4 days in the sample bottle), the starting material conversion was 96.0 percent.

reactant | 2-amino-2-methyl-1-propanol | 4.0 mol, 367.59 g | NC(CO)(C)C | C4H11NO
reactant | diketene | 3.92 mol, 332.92 g | C=C1CC(=O)O1 | C4H4O2
reactant | Thiodiphenylamine | 3.4 mmol, 0.69 g | C=1C=CC2=C(C1)NC=3C=CC=CC3S2 | C12H9NS
reactant | methacrylic anhydride | 3.92 mol, 642.92 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | thiodiphenylamine | 3.4 mmol, 0.69 g | C=1C=CC2=C(C1)NC=3C=CC=CC3S2 | C12H9NS
product | (2-acetoacetamido-2-methylpropyl)methacrylate | C(CC(=O)C)(=O)NC(COC(C(=C)C)=O)(C)C | C12H19NO4
